US05672769
7-Methoxyheptanoic Acid
The title compound was prepared by the method of Example 1 using 7-bromoheptanoic acid (50 g, 239 mmol) instead of 12-bromoundecanoic acid and dimethylformamide (300 mL) instead of methanol as the solvent. Concentration afforded the title compound (30 g) as a pale yellow liquid and the structure verified by NMR.

reactant | 7-bromoheptanoic acid | 239 mmol, 50 g | BrCCCCCCC(=O)O | C7H13BrO2
reactant | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
product | 7-Methoxyheptanoic Acid | 30 g | COCCCCCCC(=O)O | C8H16O3
